US07273868B2
2-Aminomethylpyrimidine maleate 70 g and ethanol 280 ml are put in a 4 neck-flask (2 L). To the suspension is dropped a solution of hydrogen chloride in ethanol (previously prepared) 69.6 g over a period of 10 minutes, and the mixture is stirred at 70° C. for 2 hours. After reaction ethyl acetate 560 ml is dropped thereto at 60° C. and the mixture is gradually cooled to 30° C. and stirred for 30 minutes under ice cooling. The resulting crystals are collected by filtration, washed with a cold mixture of ethanol and ethyl acetate (1:2) 140 ml and dried to give 2-aminomethylpyrimidine hydrochloride as powder-like crystals 43.1 g. mp 207-210 (decomposition)

reactant | 2-Aminomethylpyrimidine maleate | 70 g | C(\C=C/C(=O)O)(=O)O.NCC1=NC=CC=N1
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 560 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 2-aminomethylpyrimidine hydrochloride | Cl.NCC1=NC=CC=N1 | InChI=1S/C5H7N3.ClH/c6-4-5-7-2-1-3-8-5;/h1-3H,4,6H2;1H
